US05519048
a) 3-Methoxy-2-(4-fluorophenyl)-propenoic acid, methyl ester
Suspend sodium hydride (3.4 g, 142 mmol) in anhydrous tetrahydrofuran (100 mL). Cool in an ice/water bath. Add methyl formate (8.8 mL, 142 mmol), methanol (1 drop), and methyl 4-fluorophenylacetate. Warm slowly to ambient temperature. After 18 hours, concentrate in vacuo to give a residue. Dissolve the residue in dimethylformamide and cool in an ice/water bath. Add methyl iodide (8.0 mL, 130 mmol). Warm slowly to ambient temperature. After 3.5 hours, pour the reaction mixture into water and extract twice with ether. Dry the combined organic layers over MgSO4 filter, and concentrate in vacuo to give the title compound: Rf =0.52 (silica gel, 2/1 hexane/ethyl acetate).

reactant | sodium hydride | 142 mmol, 3.4 g | [H-].[Na+]
reactant | methyl formate | 142 mmol, 8.8 mL | C(=O)OC | C2H4O2
reactant | methyl 4-fluorophenylacetate | FC1=CC=C(C=C1)CC(=O)OC | C9H9FO2
reactant | methyl iodide | 130 mmol, 8.0 mL | CI | CH3I
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
catalyst | methanol | 1 drop | CO | CH4O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3-Methoxy-2-(4-fluorophenyl)-propenoic acid, methyl ester | COC=C(C(=O)OC)C1=CC=C(C=C1)F | C11H11FO3
